US05198449
2-(4-Fluorobenzoyl)-1-(3-phenoxypropyl)pyrrolidine
Following the procedure for the preparation of 1-benzyl-3-benzoylpyrrolidine (U.S. Pat. No. 3,479,370) the title compound is prepared from 2-cyano-1-(3-phenoxypropyl)pyrrolidine and 4-fluorophenylmagnesium bromide.

reactant | 1-benzyl-3-benzoylpyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)C(C1=CC=CC=C1)=O | C18H19NO
reactant | 2-cyano-1-(3-phenoxypropyl)pyrrolidine | C(#N)C1N(CCC1)CCCOC1=CC=CC=C1 | C14H18N2O
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
product | 2-(4-Fluorobenzoyl)-1-(3-phenoxypropyl)pyrrolidine | FC1=CC=C(C(=O)C2N(CCC2)CCCOC2=CC=CC=C2)C=C1 | C20H22FNO2
